US08664220B2
Step 6: 1-[4′-(4-tert-Butoxycarbonylamino-3-ethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using [5-(4-bromo-phenyl)-3-ethyl-isoxazol-4-yl]-carbamic acid tert-butyl ester and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-ethyl-isoxazol-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)CC)=O | C16H19BrN2O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-[4′-(4-tert-Butoxycarbonylamino-3-ethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)CC)NC(=O)OC(C)(C)C | C28H32N2O5
